US03932416
4-Methoxy-6-nitro-N(1H-tetrazol-5-yl)quinaldamide
4-Methoxy-6-nitroquinaldic acid (1 g) and N,N' -carbonyldiimidazole (0.7 g) in dimethylformamide (25 ml) were heated on a steam bath for 1 hour. 5-Aminotetrazole (0.7 g) was added and the mixture was heated for 30 minutes on a steam bath. 4-Methoxy-6-nitro-N(1H-tetrazol-5-yl)quinaldamide, m.p. 308° was filtered off.

reactant | 4-Methoxy-6-nitroquinaldic acid | 1 g | COC1=CC(C(=O)O)=NC2=CC=C(C=C12)[N+](=O)[O-] | C11H8N2O5
reactant | 5-Aminotetrazole | 0.7 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-Methoxy-6-nitro-N(1H-tetrazol-5-yl)quinaldamide | COC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=C(C=C12)[N+](=O)[O-] | C12H9N7O4
